US09024093B2
Synthesis of tributyl(4-cyanophenyl)stannane (S6)
To 4-iodobenzonitrile (2.29 g, 10.0 mmol, 1.00 equiv) in THF (30 mL) at −40° C. was added iPrMgCl (2.0 M in Et2O, 5.50 mL, 11 mmol, 1.1 equiv). The reaction mixture was stirred for 1.0 hr at −40° C. before the addition of nBu3SnCl (3.91 g, 12.0 mmol, 1.20 equiv). After stirring for 1.0 hr at −40° C., the reaction mixture was warmed to 23° C. and quenched with saturated aqueous NH4Cl (30 mL), and Et2O (20 mL) was added. The phases were separated and the aqueous phase was extracted with Et2O (2×20 mL). The combined organic phases were washed with brine (50 mL) and dried (Na2SO4). The filtrate was concentrated in vacuo and the residue was purified by chromatography on silica gel eluting with hexanes to afford 3.14 g of the title compound as a colorless oil (80% yield).

reactant | 4-iodobenzonitrile | 10.0 mmol, 2.29 g, 1.00 equiv | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | iPrMgCl | 11 mmol, 2.0 M, 5.50 mL, 1.1 equiv | C(C)(C)[Mg]Cl
reactant | nBu3SnCl | 12.0 mmol, 3.91 g, 1.20 equiv | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tributyl(4-cyanophenyl)stannane | 3.14 g, 80% yield | C(CCC)[Sn](C1=CC=C(C=C1)C#N)(CCCC)CCCC | InChI=1S/C7H4N.3C4H9.Sn/c8-6-7-4-2-1-3-5-7;3*1-3-4-2;/h2-5H;3*1,3-4H2,2H3;
